Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left kidney stone
 
Major Surgical or Invasive Procedure:
Attempted L stent placement but unable to induce patient due to 
persistent desaturations

 
History of Present Illness:
___ with 1.2 proximal left ureteral stone. 
 
Past Medical History:
Obesity, diabetes
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
NAD
Perfused
nonlabored breathing
abdomen soft, NT, ND
Pain well controlled, no significant CVA tenderness 
Ext WWP
 
Pertinent Results:
___ 09:09PM   GLUCOSE-175* UREA N-23* CREAT-1.1 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-101 TOTAL CO2-26 ANION GAP-15
___ 09:09PM   estGFR-Using this
___ 09:09PM   WBC-8.1 RBC-4.09* HGB-11.9* HCT-35.8* MCV-88 
MCH-29.1 MCHC-33.2 RDW-13.8 RDWSD-44.0
___ 09:09PM   NEUTS-68.5 ___ MONOS-9.1 EOS-2.1 
BASOS-0.4 IM ___ AbsNeut-5.55 AbsLymp-1.57 AbsMono-0.74 
AbsEos-0.17 AbsBaso-0.___dmitted from the ED for management of 1.2 mm proximal left 
ureteral stone. No infection but large and with significant 
pain. Attempted L ureteral stent placement in the OR, 
desaturated with LMA during induction, no attempt to convert to 
ETT, procedure aborted and patient awoken. CXR normal, 
saturation improving and stable respiratory status post-op, home 
albuterol started, written for chest physio and IS with 
improvement. On hospital day 1, pain from stone controlled and 
patient stable, Cr stable, decision made to go home with close 
follow up with home urologist. 

 
Medications on Admission:
Albuterol

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea  
2.  Docusate Sodium 100 mg PO BID  
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*0 
4.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin [Flomax] 0.4 mg 1 capsule(s) by mouth daily Disp 
#*30 Capsule Refills:*1 
5.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*40 Tablet Refills:*0 
6.Restart home medications

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L Kidney stone

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Mental Status: Clear and coherent.

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  

-You may experience some pain associated with spasm of your 
ureter.; This is normal. Take the narcotic pain medication as 
prescribed if additional pain relief is needed.

-No vigorous physical activity or sports for 4 weeks, including 
sexual.  Avoid lifting/twistin/bending/pulling/pushing items 
weighing more than a ___ pounds. 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-Colace can be used to avoid post surgical constipation and 
constipation related to narcotic pain medication. Discontinue if 
loose stool or diarrhea develops. Colace is a stool softener, 
NOT a laxative, and available over the counter. The generic name 
is DOCUSATE SODIUM. It is recommended that you use this 
medication.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

 
Followup Instructions:
___